* PTM 45nm Metal Gate / High-K  
.option filetype=ascii
.INCLUDE 16nm_HP.pm 
.INCLUDE ST65LIKE_cell_library_v2020_1.net

.PARAM vthVARn=0.3423
.PARAM vthVARp=-0.23122

.PARAM ndepVARn=3.96e+018
.PARAM ndepVARp=1.68e+018

.PARAM toxpVAR=5.21e-010

.PARAM Lmin=51.71336n
.PARAM Wmin=36.05883n

.PARAM XXX=1

.PARAM tr=50p

.TRAN 0.1p 820p

.SUBCKT NOT 0 vcc out in XX=XXX
XNOT1 0 vcc link in NOT_SUB
XNOT2 0 vcc out link NOT_SUB
.ENDS NOT

XNN 0 vd output input NOT XX=1

Vdd vd 0 1

Vin input 0 PWL(0 0 5p 0 6p 1 820p 1)

.print v(input) v(output) v(link)
.end
